US04963564
2-[6-[(6-Bromohexyl)oxy]hexyl]quinoline
A solution of 2-[6-[(6-bromohexyl)oxy]-1-hexynyl]quinoline (2.29 g) in ethanol (120 ml) was hydrogenated at room temperature and pressure over pre-reduced 10% palladium on carbon (1 g) for 20 min. The catalyst was removed by filtration through hyflo and the filtrate evaporated in vacuo to a brown oil. Purification by FCC eluting with hexane-ether (2:1) gave the title compound as a pale brown oil (1.70 g), t.l.c. (hexane:ether 2:1) Rf 0.21.

reactant | 2-[6-[(6-bromohexyl)oxy]-1-hexynyl]quinoline | 2.29 g | BrCCCCCCOCCCCC#CC1=NC2=CC=CC=C2C=C1 | C21H26BrNO
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 2-[6-[(6-Bromohexyl)oxy]hexyl]quinoline | 1.70 g | BrCCCCCCOCCCCCCC1=NC2=CC=CC=C2C=C1 | C21H30BrNO
